US08426447B2
A 25 mL RB flask was charged with (R)-2-amino-2′-(2,2-dimethylmorpholino)-5H-spiro[oxazole-4,9′-xanthene]-7′-yl trifluoromethanesulfonate (270 mg, 0.526 mmol), tetrakis(triphenylphosphine)palladium(0) (60.8 mg, 0.053 mmol), 2-fluoropyridin-3-ylboronic acid (119 mg, 0.841 mmol), DMF (2629 μL) and sodium carbonate (2M solution) (789 μL, 1.577 mmol). The mixture was stirred under argon for 2 hrs at 85° C. The mixture was diluted with water (2 ml) and extracted with 10 ml of EtOAc. Organic layer was washed with water, brine, passed through plug of Celite and concentrated. The dark residue was purified by silica gel chromatography (5-70% DCM/MeOH/NH4OH in DCM) to afford (S)-2′-(2,2-dimethylmorpholino)-7′-(2-fluoropyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine.

reactant | (R)-2-amino-2′-(2,2-dimethylmorpholino)-5H-spiro[oxazole-4,9′-xanthene]-7′-yl trifluoromethanesulfonate | 0.526 mmol, 270 mg | FC(S(=O)(=O)OC1=CC=C2OC=3C=CC(=CC3[C@]3(C2=C1)N=C(OC3)N)N3CC(OCC3)(C)C)(F)F | C22H22F3N3O6S
reactant | 2-fluoropyridin-3-ylboronic acid | 0.841 mmol, 119 mg | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | DMF | 2629 μL | CN(C)C=O | C3H7NO
reactant | sodium carbonate | 1.577 mmol, 2M, 789 μL | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 2 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.053 mmol, 60.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-2′-(2,2-dimethylmorpholino)-7′-(2-fluoropyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | CC1(OCCN(C1)C1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)C=1C(=NC=CC1)F)N=C(OC3)N)C | C26H25FN4O3
